US04472305
A chilled mixture of BocProOSu (96.1 mmole.) and dimethylformamide (100 ml.) was added with cooling to 0° C. to a solution of HDTrpOH (0.1 mole) and potassium hydroxide (85%, 0.1 mole) in dimethylformamide (150 ml.) and water (25 ml.). The mixture was stirred for one hour at 0° C., allowed to warm to room temperature overnight, and stripped of volatiles. The residue was partitioned between ethyl acetate and aqueous citric acid (5%). Crystals which formed between the layers were collected by filtration and recrystallized from methanol-water. More product was obtained by stripping the ethyl acetate layer of ethyl acetate and recrystallizing the residue from methanol-water. The recrystallizates were combined, affording BocProD-TrpOH in 86% yield (33.1 g., m.r. 210°-213° C.).

reactant | BocProOSu | 96.1 mmole | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OC(C)(C)C | C14H20N2O6
reactant | HDTrpOH | 0.1 mole | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | potassium hydroxide | 0.1 mole | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | BocProD-TrpOH | 86% yield | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)O)CCC1)C(=O)OC(C)(C)C | C21H27N3O5
